US05378704
A. 2-Amino-5-methyl-3-pyridinesulfonyl chloride
Solid 2-amino-5-picoline (10.8 g, 0.10 mol) was added portionwise to chlorosulfonic acid (66 mL, 1.0 mol) at ambient temperature over 5 minutes. When the addition was complete, the mixture was warmed to 140° C. and stirred at that temperature for 2 hours. During the heating period gas evolution was initially rapid and ceased completely after 2 hours. The mixture was then cooled to room temperature and poured onto 2 liters of ice. Solid sodium bicarbonate was added to the resulting solution to adjust the pH to about 7.0. The solid product that precipitated was collected and rinsed with a small amount of cold ethanol. The solid was then dissolved in one liter of hot chloroform, the resulting solution was dried (magnesium sulfate), and the solution was concentrated to a volume of about 100 mL. The solid product that formed was collected, the mother liquor was concentrated to 20 mL and a second crop was collected. The solid products were combined to give the title compound (14.4 g, 70 %); m.p. 16°-166° C.

reactant | 2-amino-5-picoline | 0.10 mol, 10.8 g | NC1=NC=C(C=C1)C | C6H8N2
reactant | chlorosulfonic acid | 1.0 mol, 66 mL | ClS(=O)(=O)O | ClHO3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2-Amino-5-methyl-3-pyridinesulfonyl chloride | 14.4 g, 70 % | NC1=NC=C(C=C1S(=O)(=O)Cl)C | C6H7ClN2O2S
